US08664401B2
Step D) 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]cyclohexanol
A solution of 4-(4-bromophenoxy)cyclohexanol (345 mg, 1.27 mmol), bis(pinacolato)diborane (0.388 g, 1.53 mmol), potassium acetate (0.499 g, 5.09 mmol) and palladium dppf (52.3 mg, 0.064 mmol) in 1,4-dioxane (10 mL) was heated to reflux. After 2 hours the reaction was cooled to room temperature, diluted with ethyl acetate and filtered through celite. The filtrate was concentrated, the resulting residue was partitioned between ether and water, and an emulsion was removed by filtration. The layers in the filtrate were separated and the organic layer was washed with water (2×) then brine (1×). The organic layer was dried (Na2SO4), filtered and concentrated. Purification on an Analogix SF15-12 g column (hexanes/ethyl acetate=8:2) afforded the title compound as a white solid (400 mg, 99%). LCMS m/z 319.6/301.6 (M+1).

reactant | 4-(4-bromophenoxy)cyclohexanol | 1.27 mmol, 345 mg | BrC1=CC=C(OC2CCC(CC2)O)C=C1 | C12H15BrO2
reactant | bis(pinacolato)diborane | 1.53 mmol, 0.388 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 5.09 mmol, 0.499 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium dppf | 0.064 mmol, 52.3 mg | [Pd].C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]cyclohexanol | 400 mg, 99% | CC1(OB(OC1(C)C)C1=CC=C(OC2CCC(CC2)O)C=C1)C | C18H27BO4
